US05521177
b) 4'-[[2-n-Propyl-4-methyl-6-amino-1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl
4.75 g (12.5 mMol) of 4'-[(2-n-propyl-4-methyl-6-phthalimido-1H-benzimidazol-1-yl)-methyl]-2-cyanobiphenyl are dissolved in 200 ml of absolute toluene and combined with 20.8 g (62.5 mMol) of tributyl tin azide. The reaction mixture is refluxed for 5 days with stirring. Then the solvent is distilled off, the residue is taken up in saline solution and extracted 3 times with 100 ml of ethyl acetate. The combined organic phases are dried over sodium sulphate and evaporated down. The residue is chromatographed on silica gel (particle size: 0.032-0.063 mm) using as eluant first methylene chloride and then methylene chloride/ethanol (50:1, 25:1 and 9:1). The uniform fractions are combined and evaporated down. The residue is triturated with ether/petroleum ether (1:1) and suction filtered.

reactant | 4'-[(2-n-propyl-4-methyl-6-phthalimido-1H-benzimidazol-1-yl)-methyl]-2-cyanobiphenyl | 12.5 mMol, 4.75 g | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C=C(C=C2C)N2C(C=1C(C2=O)=CC=CC1)=O | C33H26N4O2
reactant | tributyl tin azide | 62.5 mMol, 20.8 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4'-[[2-n-Propyl-4-methyl-6-amino-1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)N | C25H25N7
